US09278922B2
(S)-tert-butyl 3,3-dimethyl-2-(((S)-tetrahydrofuran-3-yloxy)carbonylamino)butanoate
A mixture of (S)-tert-butyl 2-amino-3,3-dimethylbutanoate hydrochloride (0.05 g, 0.223 mmol), (S)-2,5-dioxopyrrolidin-1-yl tetrahydrofuran-3-yl carbonate (0.056 g, 0.246 mmol) and Hunig's base (0.078 mL, 0.447 mmol) in THF (2.25 mL) was stirred at room temperature for 12 hours. The solvent was evaporated and the product was purified by chromatography on silica gel eluting with 0-15% ethyl acetate in dichloromethane to give the title compound (0.037 g, 55% yield).

reactant | (S)-tert-butyl 2-amino-3,3-dimethylbutanoate hydrochloride | 0.223 mmol, 0.05 g | Cl.N[C@H](C(=O)OC(C)(C)C)C(C)(C)C
reactant | (S)-2,5-dioxopyrrolidin-1-yl tetrahydrofuran-3-yl carbonate | 0.246 mmol, 0.056 g | C(ON1C(CCC1=O)=O)(O[C@@H]1COCC1)=O | C9H11NO6
reactant | Hunig's base | 0.447 mmol, 0.078 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 2.25 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 3,3-dimethyl-2-(((S)-tetrahydrofuran-3-yloxy)carbonylamino)butanoate | 0.037 g, 55% yield | CC([C@@H](C(=O)OC(C)(C)C)NC(=O)O[C@@H]1COCC1)(C)C | C15H27NO5
